US06291455B1
7-Benzyloxy-3,4-dihydroquinazolin-4-one (5.3 g, 21 mmol) was suspended in dry DMF (50 ml) and sodium hydride (1 g of a 60% suspension in mineral oil, 25 mmol) was added. After hydrogen evolution had ceased, the reaction was allowed to cool to ambient temperature and then chloromethyl pivalate (4.1 g, 27 mmol) was added dropwise over 10 minutes. The mixture was stirred for 30 minutes then poured into aqueous citric acid solution (pH5) (250 ml) and extracted with ether (3×300 ml). The combined extracts were washed with brine, dried (MgSO4) and the solvent removed by evaporation. The resulting solid was triturated with isohexane, collected by filtration and dried under vacuum to give 7-benzyloxy-3-methylpivaloyl-3,4-dihydroquinazolin-4-one (6.9 g, 90%).

reactant | 7-Benzyloxy-3,4-dihydroquinazolin-4-one | 21 mmol, 5.3 g | C(C1=CC=CC=C1)OC1=CC=C2C(NC=NC2=C1)=O | C15H12N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | chloromethyl pivalate | 27 mmol, 4.1 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | citric acid | 250 ml, pH5 | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 7-benzyloxy-3-methylpivaloyl-3,4-dihydroquinazolin-4-one | 6.9 g, 90% | C(C1=CC=CC=C1)OC1=CC=C2C(NC(=NC2=C1)C(C(CC)(C)C)=O)=O | C21H22N2O3
